US06559173B1
5-(3,5-Dimethyl-phenyl)2H-pyrazol-3-ylamine
3-(3,5-Dimethyl-phenyl)-3-oxo-propionitrile (2.0175 gms.) is then suspended in 55 mL of anhydrous EtOH. This suspension is treated with 0.73 mL of anhydrous hydrazine and subsequently heated to refluxing temperature for 1 day. The reaction mixture is concentrated in vacuo. The residue is then triturated with isopropanol to precipitate out the 5-(3,5-dimethyl-phenyl)-2H-pyrazol-3-ylamine as a white solid.

reactant | 3-(3,5-Dimethyl-phenyl)-3-oxo-propionitrile | 2.0175 gms | CC=1C=C(C=C(C1)C)C(CC#N)=O | C11H11NO
reactant | hydrazine | 0.73 mL | NN | H4N2
solvent | EtOH | 55 mL | CCO | C2H6O
product | 5-(3,5-Dimethyl-phenyl)2H-pyrazol-3-ylamine | CC=1C=C(C=C(C1)C)C=1C=C(NN1)N | C11H13N3
